US08703742B2
Trifluoro-methanesulfonic acid 6-ethoxy-3-fluoro-2-formyl-phenyl ester
To a cold (0° C.) solution of 3-ethoxy-6-fluoro-2-hydroxy-benzaldehyde (1.05 g, 5.70 mmol) in dry DCM (90 ml) was added pyridine (675 mg, 8.53 mmol) under nitrogen and stirred the reaction mixture at 0° C. for 10 min. Then added triflic anhydride (1.93 g, 6.84 mmol) slowly and continued stirring for 3 h at RT. Diluted the reaction with 1N.HCl (25 mL) and extracted with DCM (2×100 mL). The organic layer was washed with water and brine and dried over MgSO4. Filtered and concentrated the filtrate. Purification of the residue by flash column chromatography with 5% ethyl acetate in hexanes gave 1.12 g, (3.54 mmol, 62%) of the title compound as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.34 (s, 1H), 7.31-7.13 (m, 2H), 4.13 (q, J=7.0 Hz, 2H), 1.48 (t, J=7.0 Hz, 3H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −128.15-−128.11 (m, 1F), −73.56 (s, 3F).

reactant | 3-ethoxy-6-fluoro-2-hydroxy-benzaldehyde | 5.70 mmol, 1.05 g | C(C)OC=1C(=C(C=O)C(=CC1)F)O | C9H9FO3
reactant | pyridine | 8.53 mmol, 675 mg | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 6.84 mmol, 1.93 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
product | Trifluoro-methanesulfonic acid 6-ethoxy-3-fluoro-2-formyl-phenyl ester | 3.54 mmol, 62% | C(C)OC1=CC=C(C(=C1OS(=O)(=O)C(F)(F)F)C=O)F | C10H8F4O5S
